US05202466
A solution of 5.4 g of (S)-2-amino-7-hydroxytetraline monohydrate, PREPARATION III, in 40 ml of dimethylformamide is heated at 40° C. under stirring in the presence of 15 g of triethylamine. The mixture thus obtained is cooled to 20° C. and added with 7.2 g of di-tert-butyldicarbonate. By following the procedure described in EXAMPLE 3(a), the (S)-2-tert-butoxycarbonylamino-7-hydroxytetraline is obtained, which is directly used for the following step.

reactant | (S)-2-amino-7-hydroxytetraline monohydrate | 5.4 g | O.N[C@@H]1CC2=CC(=CC=C2CC1)O
reactant | triethylamine | 15 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 7.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (S)-2-tert-butoxycarbonylamino-7-hydroxytetraline | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)O | C15H21NO3
